US05821243
(a) Preparation of 3-methyl-4-[N'-(2-ethoxycarbonyl-1-acetyl-ethylidene)hydrazino]benzoic acid
A mixture of 3 g. (19.8 mmol) of 4-amino-3-methylbenzoic acid in 50 ml. of water and 50 ml. of ethanol and 3.56 ml. of concentrated hydrochloric acid was cooled in an ice bath and then 1.5 g. of NaNO2 (21.8 mmol.) in 10 ml. of water was added portionwise. The mixture was allowed to come to room temperature and then added to a solution of 4.06 g. (21.8 mmol.) of ethyl 3-acetyl-4-oxopentanoate and 8 ml. of pyridine in 25 ml. of ethanol. The reaction mixture was left for 24 hours at room temperature with stirring. The mixture was acidified with concentrated hydrochloric acid and diluted with 20 ml. of water. The resulting solid was collected and washed with water and pentane to yield 5.2 g.

reactant | 4-amino-3-methylbenzoic acid | 19.8 mmol | NC1=C(C=C(C(=O)O)C=C1)C | C8H9NO2
reactant | hydrochloric acid | Cl | ClH
reactant | NaNO2 | 21.8 mmol | N(=O)[O-].[Na+]
reactant | ethyl 3-acetyl-4-oxopentanoate | 21.8 mmol | C(C)(=O)C(CC(=O)OCC)C(C)=O | C9H14O4
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-methyl-4-[N'-(2-ethoxycarbonyl-1-acetyl-ethylidene)hydrazino]benzoic acid | CC=1C=C(C(=O)O)C=CC1NN=C(CC(=O)OCC)C(C)=O | C15H18N2O5
